US06914065B2
To a stirred suspension of 2′-fluoro-5′-nitrobiphenyl-2-carbonitrile (18.71 g, 77.2 mmol) in THF (150 ml) and ethanol (150 ml) was added tin(II) chloride dihydrate (52.42 g, 232.4 mmol) and the mixture was stirred at room temperature for 22.5 h. The mixture was evaporated in vacuo and the residue was treated with ice-cold 2 N aqueous NaOH (800 ml). The resulting mixture was stirred for 1.5 h, then extracted with dichloromethane (2×800 ml). The combined organic extracts were washed with saturated aqueous NaCl (200 ml), dried (MgSO4), and evaporated in vacuo. The residue was recrystallised from hot toluene (100 ml) to afford 11.33 g (69%) of 5′-amino-2′-fluorobiphenyl-2-carbonitrile as a white solid: 1H NMR (360 MHz, CDCl3) δ 3.65 (2H, br s), 6.67-6.73 (2H, m), 7.00 (1H, t, J 9.0 Hz), 7.46 (1H, td, J 7.6, 1.1 Hz), 7.49 (1H, d, J 7.4 Hz), 7.64 (1H, td, J 7.7, 1.3 Hz), 7.76 (1H, dd, J 7.7, 0.7 Hz).

reactant | 2′-fluoro-5′-nitrobiphenyl-2-carbonitrile | 77.2 mmol, 18.71 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C=1C(=CC=CC1)C#N | C13H7FN2O2
reactant | tin(II) chloride dihydrate | 232.4 mmol, 52.42 g | O.O.[Sn](Cl)Cl
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5′-amino-2′-fluorobiphenyl-2-carbonitrile | 11.33 g, 69% | NC=1C=CC(=C(C1)C=1C(=CC=CC1)C#N)F | C13H9FN2
